US06649600B1
3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]non-1-yl]-acrylic acid
5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]nonane-1-carbaldehyde (355 mg) was taken in THF (25 ml). Triphenyl-□□-phosphanylidene)-acetic acid methyl ester (614 mg) was added and refluxed overnight. Next day another 460 mg of Triphenyl-□□-phosphanylidene)-acetic acid methyl ester was added and refluxed for 24 hrs. Cooled to RT LiOH (210 mg), water (2 ml), MeOH (5 ml) were added and stirred at rt overnight. Solvent was removed under reduced pressure. Diluted with water (25 ml), extracted with ethyl acetate (3×25 ml). Aqueous layer was acidified with 1 N HCl and extracted with ethyl acetate (3×50 ml), dried over Na2SO4 and concentrated. Yield 254 mg. Mass (ES+ 429).

reactant | 5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]nonane-1-carbaldehyde | 355 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCCC(CCC1)(C2)C=O)=O)CCC | C21H30N4O3
reactant | acetic acid methyl ester | 614 mg | COC(C)=O | C3H6O2
reactant | LiOH | 210 mg | [Li+].[OH-]
reactant | water | 2 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
product | 3-[5-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[3.3.1]non-1-yl]-acrylic acid | O=C1N(C(C=2NC(=NC2N1CCC)C12CCCC(CCC1)(C2)C=CC(=O)O)=O)CCC | C23H32N4O4
